US05206370
Preparation of Succinimidyl 4-thiosemicarbazidobenzoate hemihydrochloride [Hydrazinecarbothioamide, N-[4-[[(2,5-dioxo-1-pyrrolidinyl)oxyl]carbonyl]-phenyl]-, hemihydrochloride].
Synthesis of Succinimidyl BOC-4-thiosemicarbazidobenzoate [Hydrazinecarboxylic acid, 2-[[[4-[[(2,5-dioxo-1-pyrrolidinyl)oxyl]carbonyl]phenyl]amino]thioxomethyl]-1,1-dimethylethyl ester]--To a solution of acid (1 equivalent) and N-methylmorpholine (1.1 equivalents) in acetonitrile was added a solution of succinimidyl tetrachloroethyl carbonate (1 equivalent) in acetonitrile. The reaction mixture was stirred at room temperature for 16 hours. Ethyl acetate was added to the reaction mixture and the homogeneous solution was washed with cold 5% citric acid, cold water, cold aqueous saturated sodium bicarbonate solution, cold water and cold brine. The organic phase was dried (MgSO4), filtered and concentrated to give a pale yellow oil. The oil was flash chromatographed on silica gel using hexanes/ethyl acetate as eluant. The product was isolated as a yellow oil which solidified on the addition of ether. The solids were isolated by filtration to give the desired product; yield 25%; m.p. 161°-163°.

reactant | Succinimidyl BOC-4-thiosemicarbazidobenzoate | C(=O)(OC(C)(C)C)C1=C(C(=O)ON2C(CCC2=O)=O)C=CC(=C1)NNC(=S)N | C17H20N4O6S
reactant | N-methylmorpholine | 1.1 equivalents | CN1CCOCC1 | C5H11NO
reactant | succinimidyl tetrachloroethyl carbonate | 1 equivalent | C(ON1C(CCC1=O)=O)(OC(C(Cl)(Cl)Cl)Cl)=O | C7H5Cl4NO5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | Succinimidyl 4-thiosemicarbazidobenzoate hemihydrochloride | yield 25% | Cl.N(NC(=S)N)C1=CC=C(C(=O)ON2C(CCC2=O)=O)C=C1.C1(CCC(N1OC(C1=CC=C(C=C1)NNC(=S)N)=O)=O)=O | InChI=1S/2C12H12N4O4S.ClH/c2*13-12(21)15-14-8-3-1-7(2-4-8)11(19)20-16-9(17)5-6-10(16)18;/h2*1-4,14H,5-6H2,(H3,13,15,21);1H
